US07772183B2
Prepared by way of method III using 18-hydroxy-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diaza-10-oxatricyclo[14.3.0.04,6]-nonadec-7-ene (100 mg, 0.175 mmol) and 2-carbomethoxyphenyl isocyanate (62 mg, 0.35 mmol). The final trituration (diethyl ether/hexane) and filtration gave 53 mg (41%) of 18-(2-carbomethoxyphenylaminocarbonyloxy)-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diaza-10-oxatricyclo-[14.3.0.04,6]-nonadec-7-ene as a white powder: 99.6% pure (HPLC), MS m/z 746 (M−H)−, HRMS: calcd. 786.2423 and found 786.2436 (M−H+K)−, mp 147-149° C.

reactant | 18-hydroxy-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diaza-10-oxatricyclo[14.3.0.04,6]-nonadec-7-ene | 0.175 mmol, 100 mg | OC1CN2C(C(CCCOCC=CC3CC3(NC(C2C1)=O)C(=O)NS(=O)(=O)C1CC1)NC(=O)OC(C)(C)C)=O | C25H38N4O9S
reactant | 2-carbomethoxyphenyl isocyanate | 0.35 mmol, 62 mg | C(=O)(OC)C1=C(C=CC=C1)N=C=O | C9H7NO3
product | 18-(2-carbomethoxyphenylaminocarbonyloxy)-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diaza-10-oxatricyclo-[14.3.0.04,6]-nonadec-7-ene | 53 mg, 41% | C(=O)(OC)C1=C(C=CC=C1)NC(=O)OC1CN2C(C(CCCOCC=CC3CC3(NC(C2C1)=O)C(=O)NS(=O)(=O)C1CC1)NC(=O)OC(C)(C)C)=O | C34H45N5O12S
